US07635715B2
Step C: Preparation of 2-(4-Chlorophenyl)-2-methylbutanoic acid
A mixture of 2-(4-chlorophenyl)-2-methylbutanenitrile-(6.5 g, 34 mmol) in 50 mL EtOH/H2O (5:1) was treated with KOH (3.8 g, 67 mmol). The mixture was stirred at 120° C. for 4 hours and then at 180° C. for 30 minutes. The mixture was cooled to room temperature. The mixture was extracted with EtOAc and the organic layer discarded. The water layer was acidified with concentrated HCl, extracted with EtOAc, washed with H2O and brine, dried over anhydrous Na2SO4, and concentrated in vacuo to give 1.16 g of the product as a pale yellow oil. MS m/e=213 (M+H)+.

reactant | 2-(4-chlorophenyl)-2-methylbutanenitrile- | 34 mmol, 6.5 g | ClC1=CC=C(C=C1)C(C#N)(CC)C | C11H12ClN
reactant | KOH | 67 mmol, 3.8 g | [OH-].[K+]
reactant | EtOH H2O | 50 mL | CCO.O
product | 2-(4-Chlorophenyl)-2-methylbutanoic acid | 1.16 g | ClC1=CC=C(C=C1)C(C(=O)O)(CC)C | C11H13ClO2
